US06492523B2
Preparation of ethyl 4-[2-(2,5-dimethylpyrrole-1-yl)ethoxy]acetoacetate
32 g of sodiumhydride (60% oil dispersion) was added to 500 ml of tetrahydrofuran, and 56 g (0.4 mol) of 2-(2,5-dimethylpyrrole-1-yl)ethanol obtained in Preparation Example 1 was added thereto, followed by stirring at room temperature for 1 hour. The reaction mixture was cooled to 0° C., and a solution obtained by dissolving 65.84 g (0.4 mol) of ethyl 4-chloroacetoacetate in 200 ml of tetrahydrofuran was added thereto dropwise over 2 hours. The mixture was stirred at room temperature for 16 hours and then adjusted to pH 6 to 7 with 3N hydrochloric acid. A sufficient amount of water was added to dissolve solid precipitates formed, and the reaction mixture was extracted two times with 600 ml and 100 ml of ethyl acetate, respectively. Combined ethyl acetate extract was dried over anhydrous magnesium sulfate, treated with decolorizing carbon, and then, the solvent was distilled off under a reduced pressure, to obtain 96.2 g of the titled compound as a pale yellow oil (yield: 90%).

reactant | sodiumhydride | 32 g | [H-].[Na+]
reactant | 2-(2,5-dimethylpyrrole-1-yl)ethanol | 0.4 mol, 56 g | CC=1N(C(=CC1)C)CCO | C8H13NO
reactant | ethyl 4-chloroacetoacetate | 0.4 mol, 65.84 g | ClCC(CC(=O)OCC)=O | C6H9ClO3
reactant | hydrochloric acid | 3N | Cl | ClH
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 500 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | ethyl 4-[2-(2,5-dimethylpyrrole-1-yl)ethoxy]acetoacetate | 96.2 g, yield: 90% | CC=1N(C(=CC1)C)CCOCC(CC(=O)OCC)=O | C14H21NO4
